US04621084
A solution of 5-(2-bromopropionyl)-2-benzoxazolinone (5.4 g) and 2-amino-4-picoline (6.5 g) in acetonitrile (100 ml) was refluxed for an hour. The reaction mixture was evaporated in vacuo and the residue was poured into a suspension of water and ethyl acetate with stirring. The resultant mixture was acidified to pH 0.8 with 10% hydrochloric acid and stirred for 20 minutes at ambient temperature. The resultant precipitate was collected by filtration. The product was suspended in a mixture of water and ethyl acetate and the resultant mixture was adjusted to pH 8.0 with 20% potassium carbonate. The precipitate was collected by filtration and washed with water and ethyl acetate. The precipitate was recrystallized from an aqueous tetrahydrofuran to afford 5-(3,7-dimethylimidazo[1,2-a]pyridin-2-yl)-2-benzoxazolinone (1.4 g). mp. 276°-280° C. (dec.).

reactant | 5-(2-bromopropionyl)-2-benzoxazolinone | 5.4 g | BrC(C(=O)C=1C=CC2=C(NC(O2)=O)C1)C | C10H8BrNO3
reactant | 2-amino-4-picoline | 6.5 g | NC1=NC=CC(=C1)C | C6H8N2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 5-(3,7-dimethylimidazo[1,2-a]pyridin-2-yl)-2-benzoxazolinone | 1.4 g | CC1=C(N=C2N1C=CC(=C2)C)C=2C=CC1=C(NC(O1)=O)C2 | C16H13N3O2
